US05004747
A solution of (4R,6S)-(E)-6-[2-{2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl}ethen-1-yl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one (0.6 g) in dichloromethane (20 ml) was hydrogenated at atmospheric pressure over 5% palladium on charcoal catalyst for 36 hours. The mixture was diluted with dichloromethane (100 ml) and filtered through diatomaceous earth to remove the catalyst. The filtrate was evaporated to give a gum. The gum was purified by flash chromatography (silica, ethyl acetate as eluent) to give a white solid which was recrystallised from a mixture of cyclohexane and dichloromethane to give (4R,6R)-6-[2-{2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl}ethyl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one as a white solid, m.p.192°-193° C. Found: C,70.7; H,6.15; N,3.24%. Required: C,70.9; H,6.15; N,3.31%. [NMR in CDCl3 /D2O, 1.20-1.88 (10H,m), 2.30-2.89 (4H,m), 3.46 (1H,sept,J=8 Hz), 4.26 (1H,m), 4.40 (1H,m), 7.24 (4H,m), 7.47 (1H,m), 7.69 (1H,m), 8.03 (1H,d,J=8 Hz), 8.44 (1H,m)].

reactant | (4R,6S)-(E)-6-[2-{2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl}ethen-1-yl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | 0.6 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C(C)C)=O | C25H24FNO4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (4R,6R)-6-[2-{2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl}ethyl]-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1CC[C@@H]1C[C@H](CC(O1)=O)O)C(C)C)=O | C25H26FNO4
